* AD102 Lab 04 -- my_divider.spice   <-- THIS IS THE FILE YOU EDIT
*
* Build a divider that puts 0.4500 V on node `tap` from a 1.8 V supply,
* out of sky130_fd_pr__res_high_po, meeting all three of these at once:
*
*   1. nominal tap within 0.2 % of 0.4500 V   (mismatch switched off)
*   2. sigma of the tap under 3.0 mV          (200 Monte Carlo dies)
*   3. total drawn area under 150 um^2        (sum of W*L over every device)
*
* The shipped answer is the one everybody draws first: one resistor of three
* squares' worth on top, one of one square's worth underneath, ratio 3:1,
* 24 um^2 all in. Run `make mine` and watch it fail two of the three.
*
* You may use as many devices as you like. Name them all X-something, keep
* the output node called `tap`, and keep the supply node called `vdd` --
* the grader reads your geometry back out of this file.

.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.param mc_mm_switch=1

Vdd vdd 0 1.8

Xtop vdd tap 0 sky130_fd_pr__res_high_po W=1 L=18
Xbot tap 0   0 sky130_fd_pr__res_high_po W=1 L=6

.control
setseed 1
let run = 0
dowhile run < 200
  mc_source
  op
  print v(tap)
  let run = run + 1
end
alterparam mc_mm_switch=0
mc_source
op
echo "--- NOMINAL (mismatch off) ---"
print v(tap)
.endc
.end
