* AD102 -- mismatch.spice
* Guide page: "Matching beats accuracy"
*
* Corners move every device on the wafer the same way. Mismatch is the
* part that does NOT: two resistors drawn identically, a few microns
* apart, still differ, because dopant atoms land at random.
*
* mc_mm_switch=1 turns the mismatch terms in the SKY130 models on.
* `setseed 12345` makes the whole run reproducible to the last digit --
* re-run it and you get this file's numbers back.
*
* Four devices. A and B are drawn 1 um x 1 um. C and D are drawn
* 10 um x 10 um -- one hundred times the area, same recipe.
* Two hundred fabricated wafers each.
*
* Runs inside hpretl/iic-osic-tools:2026.08.  ngspice -b spice/mismatch.spice
* Roughly 90 s of model loading, then 200 fast operating points.

.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.param mc_mm_switch=1

Va a 0 1m
Xa a 0 0 sky130_fd_pr__res_high_po W=1 L=1
Vb b 0 1m
Xb b 0 0 sky130_fd_pr__res_high_po W=1 L=1
Vc c 0 1m
Xc c 0 0 sky130_fd_pr__res_high_po W=10 L=10
Vd d 0 1m
Xd d 0 0 sky130_fd_pr__res_high_po W=10 L=10

.control
setseed 12345
reset
let n = 0
dowhile n < 200
  op
  print 1m/(-i(va)) 1m/(-i(vb)) 1m/(-i(vc)) 1m/(-i(vd))
  reset
  let n = n + 1
end
.endc
.end
